Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization via right radial approach ___
 
History of Present Illness:
This is a ___ M PMhx DM, HTN, CAD s/p MI x3 and stents at ___ 
(DES to proximal LAD (___) c/b stent restenosis requiring 
repeat DES (___), AV endocarditis, presenting w several hours 
of chest pain.  Per patient report, he was in his normal state 
of health until the afternoon of the day prior to his transfer 
to ___. Patient was sitting down and he developed acute onset 
chest pain, for 6 hours described as ___, pressure-like as if 
he had an "elephant on [his] chest", resolved after nitro x4, 
and associated with shortness of breath. Patient typically has 
stable angina with pain triggered with listing boxes for 
instance adn relieved with SL nitro. Pain on this presentation 
was even stronger per his report than has been even on his prior 
MI. Given his history of CAD, he presented to ___ for 
further evaluation.  

On presentation to ___, EKG was reported as unchanged 
from prior.  Patient was admitted for further monitoring.  
Cardiac biomarkers revealed CK 218, MB index negative (3.3), 
troponin 0.37, trended to 0.017 to 0.022.  Patient was initially 
planned for a nuclear stress test, but per his cardiologist it 
was thought he could benefit from cath. Heparin gtt was started 
(no plavix load was given high possiblity for 3VD and need for 
surgical intervention), pt was also given aspirin, imdur, and 
atenolol. ACE inhibitor was held due to elevated Cr. Cholesterol 
panel was performed showing total cholesterol 125, triglyceride 
105, HDL 42, LDL 72. He was kept on pravastatin 40QD. Patient 
was transferred to ___ for cardiac catheterization. Of note, 
patient was chest pain free for entire ___ course.  

At ___, patient underwent radial approach cardiac 
catheterization without any angioplasty or stent implantation. 
Cath revealed 30% proximal and instent stenosis with stent 
otherwise widely patent; LCx with 50% proximal stenosis of major 
OM; RCA had a mid segment smooth 60% lesion without decline in 
FFR. On arrival to ___ floor, pt was chest pain free, but 
complaining of feeling congested while laying flat. VS 98.3 
130/65 hr 72 rr 12 100RA pain ___.
 

REVIEW OF SYSTEMS:
denies chest pain, sOB, orthopnea, PND, dysuria, abd pain, n/v, 
peripheral edema / leg swelling.

 
Past Medical History:
Past Medical History:
1) status post left great toe debridement ___ 
2) CAD s/p MI in ___ treated with a stent which restenosed 
and was redone in ___. Neg stress MIBI 6 months ago.
3) Lumbar fusion in ___ at ___, ?L4-L5
4) DM 
5) Gastroparesis
6) HTN

- CAD s/p MI x 2
---> Anterior MI s/p proximal LAD stent ___
---> ISR ___ requiring restenting
- DM2 c/b neuropathy
- AV endocarditis in ___
- Chronic back pain
- HTN

 
Social History:
___
Family History:
N/A
 
Physical Exam:
ADMISSION PE:
VS: 98.3 130/65 hr 72 rr 12 100RA pain ___
HEENT: JVD 6cm
CV: RRR nl S1 S2 no m/r/g
Pulm: CTA bilatearlly, no wheezes, rhonchi, rales
Abd: + BS, soft nt/nd
Extremities: WWP no edema/ no cyanosis, right radial TR band in 
placed

DISCHARGE PE
VS: 97.9 139/88 130-150/60-80s hr 60-90s hr 68 rr 18 98RA
I/O ___ 1530/700
HEENT: JVD 6cm
CV: RRR nl S1 S2 no m/r/g
Pulm: CTA bilatearlly, no wheezes, rhonchi, rales
Abd: + BS, soft nt/nd
Extremities: WWP no edema/ no cyanosis, right radial TR band 
removed but rash at the site
 
Pertinent Results:
ADMIT LABS:
------------------
___ 07:00AM BLOOD WBC-7.6 RBC-3.90* Hgb-11.4* Hct-33.8* 
MCV-87 MCH-29.3 MCHC-33.9 RDW-13.8 Plt ___
___ 07:00AM BLOOD ___ PTT-36.1 ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-174* Creat-1.1 Na-138 K-4.2 
Cl-101 HCO3-29 AnGap-12
___ 07:00AM BLOOD cTropnT-0.02*
___ 07:00AM BLOOD Calcium-9.0 Phos-2.2* Mg-1.8

DISCHARGE LABS:

___ 09:00AM BLOOD WBC-6.4 RBC-3.96* Hgb-11.6* Hct-34.2* 
MCV-86 MCH-29.2 MCHC-33.8 RDW-13.6 Plt ___
___ 09:00AM BLOOD Plt ___
___ 09:00AM BLOOD Glucose-254* UreaN-18 Creat-1.0 Na-135 
K-4.7 Cl-99 HCO3-31 AnGap-10
___ 09:00AM BLOOD Calcium-9.2 Phos-2.7 Mg-1.7

MICRO:
___ 7:06 pm URINE      UCU ADDED TO ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING:

CATH REPORT ___
BRIEF HISTORY:    
___ yo male with HTN, DM, CAD s/p MI in ___ treated with DES to 
pLAD 
with instent restenosis in ___ treated with repeat stent, 
presents to 
OSH with 6 hours of crushing chest pain x6 hours, resolved after 
nitro 
x4. Troponin I 0.04, no ekg changes, but given the history, he 
was sent 
for urgent coronary angiography. 
  
INDICATIONS FOR CATHETERIZATION:   
Coronary artery disease, ___ Heart Class IV,  unstable.  
Prior non 
q wave anterior MI, ___.  Prior PTCA ___. 
  
PROCEDURE:      
selective coronary angiography performed via right radial artery 
access 
using a ___ sheath, JL4 and Tiger catheters. Hemostasis achieved 
with TR 
band. 
Conscious Sedation:  was provided with appropriate monitoring 
performed by
a member of the nursing staff. 
 
HEMODYNAMICS RESULTS BODY SURFACE AREA:  m2 
  HEMOGLOBIN: gms % 
  FICK     
**PRESSURES 
LEFT VENTRICLE {s/ed}      
AORTA {s/d/m} 88/50/47     
**CARDIAC OUTPUT 
HEART RATE {beats/min} 67     
  
OTHER HEMODYNAMIC DATA:      The oxygen consumption was assumed. 

 
 
 
  
TECHNICAL FACTORS:  
Total time (Lidocaine to test complete) = 0 hour42 minutes.  
Arterial time = 0 hour39 minutes.  
Fluoro time = 12 minutes. 
Effective Equivalent Dose Index (mGy) = 458 mGy. 
Contrast injected:  
          Non-ionic low osmolar (isovue, optiray...), vol 105 
ml, Indications - Renal 
Premedications:  
          Midazolam 0.5 mg IV 
          Fentanyl 25 mcg IV 
          ASA 325 mg P.O. 
          Nitroglycerine  200 mg ia 
          Diltiazem 500 mg ia 
Anesthesia:  
          1% Lidocaine subq.  
Anticoagulation:  
          Heparin 3000 units IV 
Other medication:  
          Nitroglycerin 200 mcg IC 
          Adenosine  140 mcg/kg/min x 2 min 
Cardiac Cath Supplies Used: 
          - ___ TORQUE 180CM 
          ___ CORDIS, JR 4 SH 
          - ___, AERIS 175CM PRESSURE WIRE 
          - ALLEGIANCE, CUSTOM STERILE PACK 
          - MERIT, LEFT HEART KIT 
          ___ TERUMO, JACKY RADIAL CATHETER 
          ___ TERUMO, GLIDESHEATH  
          - TERUMO, TR BAND LARGE 
  
  
COMMENTS:      
1. Selective coronary angiography of this right dominant system 
revealed 
no significant obstructive coronary artery disease. The LMCA was 
free of 
angiographically apparent CAD. THe LAD had a 30% proximal and 
instent 
stenosis with stent otherwise widely patent. The LCx had a 50% 
proximal 
stenosis in superior subbranch of the major OM. The RCA had a 
mid 
segment smooth 60% lesion that was interrogated with a pressure 
wire and 
adenosine infusion with no significant decline in FFR (lowest 
FFR with 
adenosine infusion 0.97) 
2. Limited resting hemodynamics revealed a borderline low blood 
pressure of 88/50 mmHg, thought to be vagally mediated. 
3. Successful hemostasis achived with TR Band. 
  
FINAL DIAGNOSIS:     
1. No significant obstructive coronary artery disease. 
2. Medical management and risk factor modifications. 

EKG ___
Sinus rhythm. Compared to the previous tracing of ___ no 
change.  
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
66 150 84 410/420 74 -20 ___ M PMHx three vessel disease s/p proximal LAD stent, AV 
endocarditis p/w chest pain at rest, initially thought to have 
NSTEMI now s/p cardiac catheterization without any intervention 
or evidence of acute flow limiting blockage, likely consistent 
with microvascular disease progression.

# CORONARIES / CAD / Chest Pain: Patient presented from OSH to 
___ with h/o CAD s/p DES x1. Patient was taken to cath where 
he was found to have several lesions on cath (LMCA without CAD, 
LAD with 30% proximal and ISR with stent  widely patent, LCx 
with 50% proximal stenosis in superior subbranch of the major 
OM, RCA with mid segment smooth 60% lesion with good flow). In 
the setting of having had no EKG chagnes but with elevated trops 
at ___ without any intervenable lesions on cath, the 
picture and HPI are consistent some microvascular ischemia. 
Patient was continued on his home medications which include 
atenolol, lisinopril, aspirin, pravastatin 40, as this event was 
not thought to be from NSTEMI.

# Staph epi UTI: Patient was transferred from OSH on bactrim for 
asymptomatic positive UA with + nitrites, - leuks, ___ wbc, 2+ 
bacteria. Repeat UA at ___ showed + leuks, + nitrites, WBC and 
bacteria is concerning for UTI. Pt was transitioned to 
ciprofloxacin on ___ to improve prostate penetration. Once staph 
epi was ultimately identified patient was switched to vancomycin 
on ___, and sensitivites from OSH showed vanc sensitivity.  ID 
was consulted given recent staph epi bacteremia and 
endocarditis, who recommended TTE. ID was not concerned as the 
patient has no clinical symptoms or signs of endocarditis and 
likely has asymptomatic bacteuria in the context of a 
neuropathic bladder (certainly his recent
history of incontinence seems to point to the possibility that 
patient may now have autonomic neuropathy in addition to 
peripheral neuropathy). Patient was discharged to complete 10d 
course of bactrim.

# HTN: Patient was continued on home atenolol and lisinopril. 

# DM2: Lanutus was downtitrated from 26 to 23 for AM 
hypoglycemia.

# Depression: Celexa 40mg daily was continued

# Chronic low back pain: Neurontin 400mg TID was continued and 
Percocet prn was continued.

TRANSITION ISSUES
# f/u UCx on ___ abd BCx ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
3. Glargine 26 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
4. Aspirin 325 mg PO DAILY 
5. Atenolol 50 mg PO DAILY 
6. Gabapentin 400 mg PO TID 
7. Pravastatin 40 mg PO DAILY 
8. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q 8H 
hold for rr<10 and sedation 
9. Nitroglycerin SL Dose is Unknown  SL PRN chest pain 
10. Lisinopril 5 mg PO DAILY 
hold for SBP<100 and HR<55 
11. Alendronate Sodium 70 mg PO Frequency is Unknown 
12. Nitroglycerin SL Dose is Unknown  SL PRN chest pain 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. Gabapentin 400 mg PO TID 
4. Glargine 26 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
5. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
6. Lisinopril 5 mg PO DAILY 
7. Nitroglycerin SL 0.3 mg SL PRN chest pain 
Take up to 3 tabs 5 minutes apart, and if chest paincontinues 
call your cardiologist 
8. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q 8H 
9. Pravastatin 40 mg PO DAILY 
10. Alendronate Sodium 70 mg PO CONTINUE AT YOUR HOME FREQUENCY 
11. Atenolol 50 mg PO DAILY 
12. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 10 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*20 Tablet Refills:*0
13. Nitroglycerin SL 0.3 mg SL PRN chest pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Atypical chest pain possibly from small vessel disease and 
subendocardial ischemia
- Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were transferred from ___ to ___ in ___ for a 
cardiac catheterization because of your chest pain. During the 
catheterization, they did not find any arteries that needed to 
be opened up, thus no intervention was performed.

We also found that you have a urinary tract infection.  We had 
the infectious disease specialists evaluate you while you were 
in the hospital to make sure you did not have recurrent 
endocarditis.  You will be discharged on a 10-day course of 
antibiotics for your urinary tract infection.
 
Followup Instructions:
___